US07592457B2
3-(3-amino-4-methoxy-phenyl)-6,8-dibromo-3-methyl-1H-quinoline-2,4-dione
A solution of 6,8-dibromo-3-(4-methoxy-3-nitro-phenyl)-3-methyl-1H-quinoline-2,4-dione (0.14 g, 0.29 mmol) in acetic acid (5.0 mL) was treated with SnCl2-2H2O (0.26 g, 1.16 mmol) for 4 hours at room temperature. After the reaction was completed, yellow residue was obtained by evaporating solvent under reduced pressure. The residue was diluted with 1N HCl solution (200 mL), and was extracted with ethyl acetate (200 mL×3). The combined organic layer was washed with brine (200 mL×2) and water (200 mL×2) and dried over anhydrous MgSO4. After evaporation of the solvent, the pure objective compound (56 mg, 42%) was obtained as yellow solid by a flash column chromatography (n-hexane:EtOAc=2:1): 1H NMR (200 MHz, CDCl3) δ 1.73 (s, 3H, CH3), 3.77 (s, 3H, OCH3), 4.11 (br s, 2H, NH2), 6.44-6.58 (m, 2H, ArH), 6.65 (d, J=8.6 Hz, 1H, ArH), 7.77 (d, J=2.2 Hz, 1H, ArH) ; HRMS m/e cacld. for C17H14N2O3Br2 451.9371, found 451.9385.

reactant | 6,8-dibromo-3-(4-methoxy-3-nitro-phenyl)-3-methyl-1H-quinoline-2,4-dione | 0.29 mmol, 0.14 g | BrC=1C=C2C(C(C(NC2=C(C1)Br)=O)(C)C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O | C17H12Br2N2O5
solvent | acetic acid | 5.0 mL | C(C)(=O)O | C2H4O2
product | 3-(3-amino-4-methoxy-phenyl)-6,8-dibromo-3-methyl-1H-quinoline-2,4-dione | 56 mg, 42% | NC=1C=C(C=CC1OC)C1(C(NC2=C(C=C(C=C2C1=O)Br)Br)=O)C | C17H14Br2N2O3
